US04789704
o-Allylphenol (33.5 g), 4-fluorobenzophenone (50.05 g), potassium carbonate (24.20 g), dry N-methylpyrrolidone (160 ml) and toluene (60 ml) are placed in a 3-necked 500 ml flask fitted with a stirrer, reflex condensor and thermometer and the mixture is heated under nitrogen to a temperature between 155°-160° C. and stirred for 3 hours. Water and toluene are separated via a Dean Stark trap and finally after 3 hours the reaction mixture reaches a temperature of 160° C. The mixture is cooled to 100° C. and a 1:1 mixture of toluene/water (400 ml) is added while stirring. After phase separation the aqueous layer is washed with toluene (50 ml) and the combined toluene layers are washed 4 times with water (150 ml). The toluene phase is dried over sodium sulphate and toluene distilled off by use of a rotary evaporator finally in vacuum leaving 4-[o-(1-propenyl)phenoxy]benzophenone as a light yellow melt. The yield is 73 g.

reactant | o-Allylphenol | 33.5 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | 4-fluorobenzophenone | 50.05 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
reactant | potassium carbonate | 24.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 160 ml | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[o-(1-propenyl)phenoxy]benzophenone | C(=CC)C1=C(OC2=CC=C(C(=O)C3=CC=CC=C3)C=C2)C=CC=C1 | C22H18O2
